US06030984
b) 8-(4-Benzyloxy-phenyl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid (2-methoxy-ethyl)-(3-methyl-isothiazol-5-yl)-amide
From 8-[p-(benzyloxy)phenyl]-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid and (2-methoxy-ethyl)-(3-methyl-isothiazol-5-yl)-amine with triethylamine and diethyl cyanophosphonate in dimethylformamide.

reactant | 8-[p-(benzyloxy)phenyl]-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C(N2C=CC3=C(C2=C(C1)C(=O)O)SC=C3)=O | C25H17NO4S
reactant | (2-methoxy-ethyl)-(3-methyl-isothiazol-5-yl)-amine | COCCNC1=CC(=NS1)C | C7H12N2OS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-(4-Benzyloxy-phenyl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid (2-methoxy-ethyl)-(3-methyl-isothiazol-5-yl)-amide | COCCN(C(=O)C=1C=C(C(N2C=CC3=C(C12)SC=C3)=O)C3=CC=C(C=C3)OCC3=CC=CC=C3)C3=CC(=NS3)C | C32H27N3O4S2
